2119-12-13 06:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GIB
   24 Hour Events:
   - spoke with son, patient made DNR/DNI, no central line, no escalation
   of care
   - attempted beside PICC, unable to place, did not send to IR, as
   patient would not tolerate
   - trialed zyprexa to see if it would adequately sedate her to use for
   possible IR PICC tomorrow - got while sleeping, tolerated, allowed
   nurse [**First Name (Titles) **] [**Last Name (Titles) 3840**] her.
   - femoral line kept in as it is her only access - plan to pull
   Wednesday if can get PICC placed
   - supportive care continued
   - hct 30---->26 at night.  Continuing to have pink guaiac + stools.
   Unable to reach son for consent for blood, left message that we needed
   to give a unit.  Got one unit, hct with morning labs.
   - continuing to have small amount of red-ish stool overnight.
   Patient unable to provide history: demented
   Allergies:
   Lactose Intolerance (Oral) (Lactase)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-12-12**] 12:10 PM
   Metronidazole - [**2119-12-13**] 01:46 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-12-13**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.3
   HR: 87 (85 - 105) bpm
   BP: 113/46(61) {79/14(35) - 130/73(89)} mmHg
   RR: 16 (9 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
           Total In:
                                                                  5,585 mL
                                                                    798 mL
   PO:
           TF:
   IVF:
                                                                  2,585 mL
                                                                    520 mL
   Blood products:
   278 mL
   Total out:
                                                                    935 mL
                                                                    225 mL
   Urine:
                                                                    635 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,650 mL
                                                                    573 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Crackles at L base/ R base
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: 1+ [**Location (un) **] bilaterally
   Skin:  Warm
   Neurologic: not oriented, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   156 K/uL
   10.5 g/dL
   245 mg/dL
   1.8 mg/dL
   20 mEq/L
   4.7 mEq/L
   39 mg/dL
   111 mEq/L
   142 mEq/L
   26.4 %
   10.4 K/uL
        [image002.jpg]
                             [**2119-12-12**]  05:25 AM
                             [**2119-12-12**]  07:52 AM
                             [**2119-12-12**]  01:38 PM
                             [**2119-12-12**]  09:50 PM
   WBC
   10.4
   Hct
   31
   31.0
   30.3
   26.4
   Plt
   156
   Cr
   1.8
   Glucose
   245
   Other labs: PT / PTT / INR:13.6/33.3/1.2, Lactic Acid:3.4 mmol/L,
   Ca++:8.0 mg/dL, Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
 .H/O DIABETES MELLITUS (DM), TYPE II
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   83F with IDDM, who presents with hematochezia, dehydration, also UTI,
   leukocytosis with bandemia, and hyperglycemia
   # GI bleeding: Given age, DM, tenderness on exam, and rectal
   inflammation on OSH CT scan, concern for ischemic colitis, although she
   may instead have diverticular bleeding, AVM, etc.  Had hct 30-
   yesterday got 1 unit pRBC emergency blood overnight with bump back to
   30.   Needs consent from son signed.
   - currently has fem line, will attempt PICC today and remove groin
   line, has one 20g PIV and poor peripheral vasculature
   - serial Hct q4h given hct drop overnight
   - IV PPI
   - GI consult initially recommended bleeding scan and would consider
   scope; given her age and inability to cooperate with nuclear scan,
   prefer empiric management with volume resuscitation, supportive
   transfusion prn, and following clinical exam, given that the leading dx
   is ischemia and this will be the treatment regardless of diagnostic
   strategy ---consult now recommends conservative management, however,
   patient could have bleeding polyp or AVM
 will contact GI to see if
   can get flex sig
   # Acute renal failure: Improved to 1.8 this morning. On admission, Cr
   2.3; baseline 0.7-0.8 at her last admission here in [**2117**].  Likely
   prerenal as improved with IVF
   - f/u urine lytes
   - IVF, transfuse as needed for volume resuscitation
   - trend Cr
   # Oxygen Requirement:  On 2L NC, is up 4.5L since yesterday, crackles
   on exam.  Unknown EF.
   - hold IVF for now as appears volume up
   - can give IVF if needed with close respiratory status monitoring
   # Urinary tract infection: + UA with GNR >100,000 on culture, [**Last Name (un) 46**]
   pending.
   - continue Cipro for 3 days total, last dose today
   # IDDM: restart home NPH 28units QAM and sliding scale (half doses
   while NPO); if fingersticks remain elevated, may need insulin gtt
   # Leukocytosis: Resolved.  Was likely  from infection, either UTI or
   proctitis seen on OSH CT scan, vs stress response.
   - f/u blood, urine cultures
   # Dementia: continue donepezil, risperdal, depakote
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2119-12-12**] 07:46 AM
   20 Gauge - [**2119-12-12**] 07:47 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2119-12-13 09:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Spoke w/ son [**Name (NI) 3845**]- pt made DNR/DNI, no central line, supportive care.
   Trial of Zyprexa o/n to settle agitation. Hct drop from 30 --> 26 [**Name (NI) 3845**]
   pm. Transfused 1u PRBC o/n. Continues to have hematochezia but remained
   hemodynamically stable.
   Allergies:
   Lactose Intolerance (Oral) (Lactase)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-12-12**] 12:10 PM
   Metronidazole - [**2119-12-13**] 01:46 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-12-13**] 08:00 AM
   Other medications:
   MVI, Aricept, Vit D, CaHCO3, Risperdal, Depakote sprinkles, RISS, NPH
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-12-13**] 09:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 35.9
C (96.6
   HR: 110 (85 - 110) bpm
   BP: 133/54(74) {79/22(38) - 138/82(94)} mmHg
   RR: 16 (10 - 20) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 61 Inch
           Total In:
                                                                  5,585 mL
                                                                  1,146 mL
   PO:
           TF:
   IVF:
                                                                  2,585 mL
                                                                    868 mL
   Blood products:
   278 mL
   Total out:
                                                                    935 mL
                                                                    340 mL
   Urine:
                                                                    635 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,650 mL
                                                                    808 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   123 K/uL
   124 mg/dL
   1.2 mg/dL
   19 mEq/L
   4.3 mEq/L
   32 mg/dL
   117 mEq/L
   143 mEq/L
   30.6 %
   7.2 K/uL
        [image002.jpg]
                             [**2119-12-12**]  05:25 AM
                             [**2119-12-12**]  07:52 AM
                             [**2119-12-12**]  01:38 PM
                             [**2119-12-12**]  09:50 PM
                             [**2119-12-13**]  06:43 AM
   WBC
   10.4
   7.2
   Hct
   31
   31.0
   30.3
   26.4
   30.6
   Plt
   156
   123
   Cr
   1.8
   1.2
   Glucose
   245
   124
   Other labs: PT / PTT / INR:13.7/32.8/1.2, Lactic Acid:1.1 mmol/L,
   Ca++:8.1 mg/dL, Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Microbiology: UCx- GNRs
   Blood Cx- NGTD
   Assessment and Plan
   LOWER GI BLEED- underlying diverticulosis, though perirectal stranding,
   rectal thickening and hypovolemia raise possibilities of ischemic/
   infectious colitis
   -npo, f/u GI recs
   -empiric ABX for now w/ ciprofloxacin + metronidazole
   -volume resuscitation
   -serial Hct q4hrs; transfuse to goal Hct 25
   -hold all blood thinners
   ARF- most likely pre-renal in nature; resolving w/ fluids
   INCREASED O2 REQUIREMENTS- due to fluid resuscitation
   -dial back IVF resuscitation for now
   POSSIBLE UTI- f/u urine cx; on empiric ABX as above
   DEMENTIA- on Aricept, Depakote, Risperdal, using Zyprexa one-time
   dosing for sedation
   IDDM- on home NPH + RISS regimen; 1/2 dose NPH while npo
   ACCESS- PICC placement and d/c fem line ASAP
   DISPO- DNR/DNI
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2119-12-12**] 07:46 AM
   20 Gauge - [**2119-12-12**] 07:47 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 30 minutes

2119-12-14 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GIB
   24 Hour Events:
 PICC LINE - START [**2119-12-13**] 01:00 PM
 MULTI LUMEN - STOP [**2119-12-13**] 02:06 PM
   - 24h hct: 30-->27-->29-->29
   - L brachial PICC line placed, femoral line pulled
   - GI recommended flexible sigmoidoscopy in the AM, pt prepped with
   Fleets enema x 2
   History obtained from Medical records
   Patient unable to provide history: demented
   Allergies:
   Lactose Intolerance (Oral) (Lactase)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-12-13**] 12:00 PM
   Metronidazole - [**2119-12-14**] 02:10 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-12-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-12-14**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.5
   HR: 93 (72 - 110) bpm
   BP: 109/49(64) {94/36(47) - 149/85(102)} mmHg
   RR: 31 (13 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,558 mL
                                                                    100 mL
   PO:
             TF:
   IVF:
                                                                  1,280 mL
                                                                    100 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                    930 mL
                                                                    170 mL
   Urine:
                                                                    930 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    628 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   99 K/uL
   9.9 g/dL
   111 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.0 mEq/L
   25 mg/dL
   116 mEq/L
   145 mEq/L
   29.6 %
   5.4 K/uL
        [image002.jpg]
                             [**2119-12-12**]  05:25 AM
                             [**2119-12-12**]  07:52 AM
                             [**2119-12-12**]  01:38 PM
                             [**2119-12-12**]  09:50 PM
                             [**2119-12-13**]  06:43 AM
                             [**2119-12-13**]  12:51 PM
                             [**2119-12-13**]  05:12 PM
                             [**2119-12-14**]  04:01 AM
   WBC
   10.4
   7.2
   5.4
   Hct
   31
   31.0
   30.3
   26.4
   30.6
   27.2
   29.4
   29.6
   Plt
   156
   123
   99
   Cr
   1.8
   1.2
   1.0
   Glucose
   245
   124
   111
   Other labs: PT / PTT / INR:13.2/31.4/1.1, Lactic Acid:1.1 mmol/L,
   Albumin:2.5 g/dL, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 .H/O DIABETES MELLITUS (DM), TYPE II
 .H/O DEMENTIA (INCLUDING ALZHEIMER'S, MULTI INFARCT)
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   83F with IDDM, who presents with hematochezia, dehydration, also UTI,
   leukocytosis with bandemia, and hyperglycemia
   # GI bleeding: Given age, DM, tenderness on exam, and rectal
   inflammation on OSH CT scan, concern for ischemic colitis, although she
   may instead have diverticular bleeding, AVM, etc.  Had hct 30-
   yesterday got 1 unit pRBC emergency blood overnight with bump back to
   30.   Needs consent from son signed.
   - currently has fem line, will attempt PICC today and remove groin
   line, has one 20g PIV and poor peripheral vasculature
   - serial Hct q4h given hct drop overnight
   - IV PPI
   - GI consult initially recommended bleeding scan and would consider
   scope; given her age and inability to cooperate with nuclear scan,
   prefer empiric management with volume resuscitation, supportive
   transfusion prn, and following clinical exam, given that the leading dx
   is ischemia and this will be the treatment regardless of diagnostic
   strategy ---consult now recommends conservative management, however,
   patient could have bleeding polyp or AVM
 will contact GI to see if
   can get flex sig
   # Acute renal failure: Improved to 1.0 this morning. On admission, Cr
   2.3; baseline 0.7-0.8 at her last admission here in [**2117**].  Likely
   prerenal as improved with IVF
   - f/u urine lytes
   - IVF, transfuse as needed for volume resuscitation
   - trend Cr
   # Oxygen Requirement:  On 2L NC, is up 4.5L since yesterday, crackles
   on exam.  Unknown EF.
   - hold IVF for now as appears volume up
   - can give IVF if needed with close respiratory status monitoring
   # Urinary tract infection: + UA with GNR >100,000 on culture, [**Last Name (un) 46**]
   pending.
   - continue Cipro for 3 days total started on [**2119-12-12**], treat for 7 days
   given foley, last dose on [**2119-12-19**]
   # IDDM: restart home NPH 28units QAM and sliding scale (half doses
   while NPO); if fingersticks remain elevated, may need insulin gtt
   # Leukocytosis: Resolved.  Was likely  from infection, either UTI or
   proctitis seen on OSH CT scan, vs stress response.
   - f/u blood, urine cultures
   # Dementia: continue donepezil, risperdal, depakote
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2119-12-12**] 07:47 AM
   PICC Line - [**2119-12-13**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2119-12-14 10:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   to get flex sig today. Hct stable. no BM since yest. mod secretions [**Name8 (MD) 77**]
   RN.
   Allergies:
   Lactose Intolerance (Oral) (Lactase)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ciprofloxacin - [**2119-12-13**] 12:00 PM
   Metronidazole - [**2119-12-14**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2119-12-14**] 08:00 AM
   Other medications:
   MVI, Aricept, Vit D, CaHCO3, Risperdal, Depakote, RISS, NPH
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2119-12-14**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 73 (70 - 108) bpm
   BP: 89/34(47) {89/34(47) - 149/85(102)} mmHg
   RR: 18 (13 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,558 mL
                                                                    298 mL
   PO:
             TF:
   IVF:
                                                                  1,280 mL
                                                                    298 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                    930 mL
                                                                    350 mL
   Urine:
                                                                    930 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    628 mL
                                                                    -52 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S2: Normal), no m/r/g
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilat)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): name only, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   99 K/uL
   111 mg/dL
   1.0 mg/dL
   22 mEq/L
   4.0 mEq/L
   25 mg/dL
   116 mEq/L
   145 mEq/L
   29.6 %
   5.4 K/uL
        [image002.jpg]
                             [**2119-12-12**]  05:25 AM
                             [**2119-12-12**]  07:52 AM
                             [**2119-12-12**]  01:38 PM
                             [**2119-12-12**]  09:50 PM
                             [**2119-12-13**]  06:43 AM
                             [**2119-12-13**]  12:51 PM
                             [**2119-12-13**]  05:12 PM
                             [**2119-12-14**]  04:01 AM
   WBC
   10.4
   7.2
   5.4
   Hct
   31
   31.0
   30.3
   26.4
   30.6
   27.2
   29.4
   29.6
   Plt
   156
   123
   99
   Cr
   1.8
   1.2
   1.0
   Glucose
   245
   124
   111
   Other labs: PT / PTT / INR:13.2/31.4/1.1, Lactic Acid:1.1 mmol/L,
   Albumin:2.5 g/dL, Ca++:8.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.3 mg/dL
   Microbiology: UCX- GNRs
   Assessment and Plan
   LOWER GI BLEED- underlying diverticulosis, though perirectal stranding,
   rectal thickening and hypovolemia raise possibilities of ischemic/
   infectious colitis
   -npo, f/u GI recs --> to undergo flex sig today
   -empiric ABX for now w/ ciprofloxacin + metronidazole
   -volume resuscitation
   -hemodyn stable throughout and Hct stable >24h. back off to q8 checks.
   will be stable for floor after scope today
   -hold all blood thinners
   ARF- most likely pre-renal in nature; resolving w/ fluids
   INCREASED O2 REQUIREMENTS- due to fluid resuscitation
   -conservative fluid mgmt
   POSSIBLE UTI- f/u urine cx; on empiric ABX as above
   DEMENTIA- on Aricept, Depakote, Risperdal, using Zyprexa one-time
   dosing for sedation
   IDDM- on home NPH + RISS regimen; 1/2 dose NPH while npo
   ACCESS- PICC placement and d/c fem line ASAP
   DISPO- DNR/DNI
   -should be stable for floor if no intervention and stable Hct today
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2119-12-12**] 07:47 AM
   PICC Line - [**2119-12-13**] 01:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes